US08686048B2
Potassium acetate (0.344 g, 3.51 mmol) and bis(pinacolato)diboron (351 mg, 1.4 mmol) were added to a solution of 5-bromo-1,3-dimethyl-1H-indazole (240 mg, 1.06 mmol) in dioxane (10 ml) and mixture was degassed with nitrogen for 30 min. tetrakis(triphenylphosphine) palladium(0) was added and degassed for further 30 min. Reaction mixture was refluxed for 2 h. After completion of the reaction, work-up (AcOEt/H2O) followed by column afforded 1,3-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole (85 mg) as a white solid. The title compound (26 mg) was prepared from 4-bromo-2,6-difluoroaniline (50 mg, 0.24 mmol) and 1,3-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole (85 mg, 0.31 mmol) as a white solid. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 7.93 (s, 1H), 7.66 (dd, J 1.5, 8.8, 1H), 7.55 (d, J 8.8, 1H), 7.33 (dd, J 2, 8.2, 2H), 5.22 (s, 2H), 3.94 (s, 3H), 2.49 (s, 3H).

reactant | Potassium acetate | 3.51 mmol, 0.344 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 1.4 mmol, 351 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | 5-bromo-1,3-dimethyl-1H-indazole | 1.06 mmol, 240 mg | BrC=1C=C2C(=NN(C2=CC1)C)C | C9H9BrN2
reactant | AcOEt H2O | CCOC(=O)C.O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 1,3-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole | 85 mg | CN1N=C(C2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C)C | C15H21BN2O2
